US03979409
Preparation of 1-Allyl-3,5-diphenyl-4-n-propoxypyrazole
3,5-Diphenyl-4-n-propoxypyrazole (9.0 g, 0.038 mole) is dissolved in 2-propanol (90 ml). Potassium t-butoxide (4.65 g, 0.042 mole) is added at room temperature and the reaction mixture stirred and heated at 50°C for 3 hours. It is then cooled to room temperature and 3-bromoprop-1-ene (5.53 g, 0.046 mole) is added dropwise. A white solid forms. Stirring is continued at room temperature overnight, the mixture is then poured into water and extracted with chloroform. The chloroform layer is washed with water (3 × 150 ml) and stripped under vacuum. The residual oil is purified by dry column chromatography (silica gel/toluene). The toluene solution is stripped under vacuum to afford 6.64 g (55%) product.

reactant | 3,5-Diphenyl-4-n-propoxypyrazole | 0.038 mole, 9.0 g | C1(=CC=CC=C1)C1=NNC(=C1OCCC)C1=CC=CC=C1 | C18H18N2O
reactant | Potassium t-butoxide | 0.042 mole, 4.65 g | CC(C)([O-])C.[K+]
reactant | 3-bromoprop-1-ene | 0.046 mole, 5.53 g | BrCC=C | C3H5Br
reactant | water | O | H2O
solvent | 2-propanol | 90 ml | CC(C)O | C3H8O
product | 1-Allyl-3,5-diphenyl-4-n-propoxypyrazole | 6.64 g, 55% | C(C=C)N1N=C(C(=C1C1=CC=CC=C1)OCCC)C1=CC=CC=C1 | C21H22N2O
